US20010041799A1
To a suspension of N-[[1-(2-methoxyethyl)cyclopentyl]thioxomethyl]-4-nitro-L-phenylalanine methyl ester (4.58 g, 11.6 mmol), zinc dust (7.50 g, 116 mmol) and ammonium chloride (9.20 g, 174 mmol) in methanol (200 mL) was added H2O (100 mL) slowly over 5 min. After stirring for 20 min, the reaction mixture was partitioned between ethyl acetate (400 mL) and sat. ammonium chloride solution (150 mL).The separated aqueous layer was back-extracted with ethyl acetate (3×100 mL) and the organic layers were combined, dried over Na2SO4, filtered and concentrated in vacuo. The residual oil was dried under high vacuum for 2 h to give crude 4-amino-N-[[1-(2-methoxyethyl)cyclopentyl]thioxomethyl]-L-phenylalanine methyl ester (4.5 g).

reactant | N-[[1-(2-methoxyethyl)cyclopentyl]thioxomethyl]-4-nitro-L-phenylalanine methyl ester | 11.6 mmol, 4.58 g | COC([C@@H](NC(=S)C1(CCCC1)CCOC)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H26N2O5S
reactant | ammonium chloride | 174 mmol, 9.20 g | [Cl-].[NH4+]
reactant | H2O | 100 mL | O | H2O
solvent | methanol | 200 mL | CO | CH4O
catalyst | zinc | 116 mmol, 7.50 g | [Zn] | Zn
product | 4-amino-N-[[1-(2-methoxyethyl)cyclopentyl]thioxomethyl]-L-phenylalanine methyl ester | 4.5 g | COC([C@@H](NC(=S)C1(CCCC1)CCOC)CC1=CC=C(C=C1)N)=O | C19H28N2O3S
